US03975451
3,7,11-trimethyldodeca-1-yne-6,11-dien-3-ol can be obtained by halogenating 3-methyl-3-buten-1-ol, which is formed as a by-product in isoprene synthesis with phosphorus trichloride or phosphorus tribromide, reacting the halogenation product with ethyl acetoacetate to form 6-methyl-6-hepten-2-one, subjecting 6-methyl-6-hepten-2-one to ethynylation in the same manner as described above, thereafter subjecting the ethynylation product to partial hydrogenation in the presence of a Lindler catalyst, subjecting the partial hydrogenation product to Caroll rearrangement by using ethyl acetoacetate or diketene, and subjecting the rearrangement product to ethynylation.

reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | isoprene | C=CC(C)=C | C5H8
product | 6-methyl-6-hepten-2-one | CC(CCCC(C)=O)=C | C8H14O
